US09340549B2
(S)-5,5-Dimethyl-3-(1-oxo-2-(quinolin-8-yl)-1,2,3,4-tetrahydroisoquinolin-6-yl)-4-phenyloxazolidin-2-one
The title compound was prepared as described in General Scheme A substituting (S)-5,5-dimethyl-3-(1-oxo-1,2,3,4-tetrahydroisoquinolin-6-yl)-4-phenyloxazolidin-2-one and 8-iodoquinoline (commercially available from Synthonix, Wake Forest, N.C.). The final reaction mixture was filtered through Celite® brand filter aid with MeOH and DCM, concentrated, and purified (ISCO: 5 g cartridge, 12 g column, 0 to 40 to 80 to 100% EtOAc-heptanes) giving (S)-5,5-dimethyl-3-(1-oxo-2-(quinolin-8-yl)-1,2,3,4-tetrahydroisoquinolin-6-yl)-4-phenyloxazolidin-2-one (68.1 mg, 0.147 mmol, 68.6% yield). 1H NMR (400 MHz, DMSO-d6) δ 8.85-8.89 (m, 1H), 8.41-8.46 (m, 1H), 7.96-8.01 (m, 1H), 7.77-7.81 (m, 1H), 7.71-7.76 (m, 1H), 7.62-7.69 (m, 2H), 7.52-7.59 (m, 1H), 7.37-7.46 (m, 3H), 7.22-7.36 (m, 3H), 5.54-5.58 (m, 1H), 3.80-4.09 (m, 2H), 3.10-3.18 (m, 2H), 1.66 (s, 3H), 0.93 (s, 3H). m/z (ESI) 464.2 (M+H)+.

reactant | (S)-5,5-dimethyl-3-(1-oxo-1,2,3,4-tetrahydroisoquinolin-6-yl)-4-phenyloxazolidin-2-one | CC1([C@@H](N(C(O1)=O)C=1C=C2CCNC(C2=CC1)=O)C1=CC=CC=C1)C | C20H20N2O3
reactant | 8-iodoquinoline | IC=1C=CC=C2C=CC=NC12 | C9H6IN
product | (S)-5,5-dimethyl-3-(1-oxo-2-(quinolin-8-yl)-1,2,3,4-tetrahydroisoquinolin-6-yl)-4-phenyloxazolidin-2-one | 0.147 mmol, 68.1 mg, 68.6% yield | CC1([C@@H](N(C(O1)=O)C=1C=C2CCN(C(C2=CC1)=O)C=1C=CC=C2C=CC=NC12)C1=CC=CC=C1)C | C29H25N3O3
